US04333937
In the same manner, but replacing 4-(cycloheptimidazol-2-yl)-1-piperazinecarboxaldehyde with an equivalent amount of 4-(6-chloro-cycloheptimidazol-2-yl)-1-piperazinecarboxaldehyde, there was obtained 6-chloro-2-(1-piperazinyl)cycloheptimidazole hydrochloride: mp 210° C. (crystallized from methanol-acetone) and nmr (DMSO-d6) δ 3.30 (4H), 4.07 (4H), 7.73 (d, 2H), 8.27 (d, 2H) and 9.65 (1H).

reactant | 4-(cycloheptimidazol-2-yl)-1-piperazinecarboxaldehyde | N1=C(N=C2C1=CC=CC=C2)N2CCN(CC2)C=O | C13H14N4O
reactant | 4-(6-chloro-cycloheptimidazol-2-yl)-1-piperazinecarboxaldehyde | ClC=1C=CC=2C(N=C(N2)N2CCN(CC2)C=O)=CC1 | C13H13ClN4O
product | 6-chloro-2-(1-piperazinyl)cycloheptimidazole hydrochloride | Cl.ClC=1C=CC=2C(N=C(N2)N2CCNCC2)=CC1 | InChI=1S/C12H13ClN4.ClH/c13-9-1-3-10-11(4-2-9)16-12(15-10)17-7-5-14-6-8-17;/h1-4,14H,5-8H2;1H
